US05789417
Using an analogous procedure to that described in the first paragraph of Example 1, N-(3-cyanobenzyl)-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamide (0.36 g) was reacted with propargyl bromide to give N-(3-cyanobenzyl)-p-[N-(2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzamide (0.154 g).

reactant | N-(3-cyanobenzyl)-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamide | 0.36 g | C(#N)C=1C=C(CNC(C2=CC=C(C=C2)NC2CCC3=C2C=C2C(N(C(=NC2=C3)C)COC(C(C)(C)C)=O)=O)=O)C=CC1 | C33H33N5O4
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | N-(3-cyanobenzyl)-p-[N-(2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzamide | 0.154 g | C(#N)C=1C=C(CNC(C2=CC=C(C=C2)N(CC#C)C2CCC3=C2C=C2C(N(C(=NC2=C3)C)COC(C(C)(C)C)=O)=O)=O)C=CC1 | C36H35N5O4
